US06048824
Example P16: 3-(2-Chloropyrid-5-yl-methyl)-2-cyanimino-pyrrolidine
A mixture of 3.6 g of 3-(2-chloropyrid-5-yl-methyl)pyrrolide-2-thione, 2.42 g of cyanamide and 30 ml of ethanol is boiled at reflux temperature for 90 minutes. The mixture is concentrated by evaporation in vacuo and the residue is chromatographed on silica gel using ethyl acetate/methanol (9:1) as eluant. The title compound having a melting point of 137-140° C. (compound 6.3) is obtained.

reactant | 3-(2-chloropyrid-5-yl-methyl)pyrrolide-2-thione | 3.6 g | ClC1=NC=C(C=C1)CC1C([N-]C=C1)=S
reactant | cyanamide | 2.42 g | N#CN | CH2N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(2-Chloropyrid-5-yl-methyl)-2-cyanimino-pyrrolidine | ClC1=NC=C(C=C1)CC1C(NCC1)=NC#N | C11H11ClN4
